US09029361B2
To a solution of tert-butyl (2S,4R)-4-(benzyloxy)-2-(hydroxymethyl)pyrrolidine-1-carboxylate (20 g, 0.065 mol, Part A) and triethylamine (27 ml, 0.195 mol) in dichloromethane (200 mL) was added a solution of sulfur trioxide pyridine complex (31 g, 0.195 mol) in dimethyl sulfoxide (200 mL) at −15° C. The reaction mixture was stirred at that temperature for one hour and then another lot of sulfur trioxide pyridine complex (5.1 g, 0.033 mol) in dimethyl sulfoxide (35 mL) was added. The reaction mixture was allowed to stir at 20-25° C. for 18 hours, and then it was poured into cold water (400 mL) and extracted with ten-butyl methyl ether (200 mL×2). The combined organic layers were washed with 10% citric acid solution (200 mL), saturated sodium bicarbonate solution (200 mL), water (100 mL) and brine solution (100 mL). The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated to give tert-butyl (2S,4R)-4-(benzyloxy)-2-formylpyrrolidine-1-carboxylate (17 g, 85%) as pale yellow oil which was used without further purification.

reactant | tert-butyl (2S,4R)-4-(benzyloxy)-2-(hydroxymethyl)pyrrolidine-1-carboxylate | C(C1=CC=CC=C1)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)CO | C17H25NO4
reactant | triethylamine | 0.195 mol, 27 ml | C(C)N(CC)CC | C6H15N
reactant | water | 400 mL | O | H2O
solvent | dichloromethane | 200 mL | ClCCl | CH2Cl2
solvent | dimethyl sulfoxide | 200 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 35 mL | CS(=O)C | C2H6OS
product | tert-butyl (2S,4R)-4-(benzyloxy)-2-formylpyrrolidine-1-carboxylate | 17 g, 85% | C(C1=CC=CC=C1)O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C=O | C17H23NO4
